US07390908B2
Preparation of N-(5-nitropyridin-2-yl)-3-[(2-cyanobenzyl)oxy]-5-hydroxybenzamide
A suspension of 3-{[(5-nitropyridin-2-yl)amino]carbonyl}-5-[(2-cyanobenzyl)oxy]phenyl acetate (5710 mg) in THF (35 ml) was treated with 25% NaOMe in methanol (6 ml). Stirred at ambient temperature for 30 minutes. Acidified with 2 m hydrochloric acid (25 ml), then extracted with ethyl acetate (100 ml). The extract was washed with water (50 ml), brine (50 ml), dried over MgSO4. Volatile material was removed by evaporation to give a solid. This was washed with hot methanol to give the title compound (4358 mg) as a solid, LCMS rt=2.38 min (90.5%). ES+391.45 (M+H)+.

reactant | 3-{[(5-nitropyridin-2-yl)amino]carbonyl}-5-[(2-cyanobenzyl)oxy]phenyl acetate | 5710 mg | C(C)(=O)OC1=CC(=CC(=C1)OCC1=C(C=CC=C1)C#N)C(=O)NC1=NC=C(C=C1)[N+](=O)[O-] | C22H16N4O6
reactant | NaOMe | C[O-].[Na+]
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
product | N-(5-nitropyridin-2-yl)-3-[(2-cyanobenzyl)oxy]-5-hydroxybenzamide | 4358 mg | [N+](=O)([O-])C=1C=CC(=NC1)NC(C1=CC(=CC(=C1)O)OCC1=C(C=CC=C1)C#N)=O | C20H14N4O5
